US07345178B2
Preparation of [6-(2-Nitro-phenyl)-imidazo[2,1-b]thiazol-3-yl]-acetic acid
6-(2-Nitro-phenyl)-imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester (466 mg, 1.47 mmol) in 2:1 THF/Water was combined with 4 eq of NaOH (234 mg). The reaction mixture was heated to 50° C. for 3 hours. The reaction mixture was concentrated to dryness, the residue dissolved in water (20 ml), washed with CH2Cl2, and the aqueous layer was adjusted to pH=3 with 4N HCl. The solids were collected by filtration, washed with water and air dried to obtain the acid product was a brown solid (442 mg, 99% yield) (MS, M++H=304.0)

reactant | 6-(2-Nitro-phenyl)-imidazo[2,1-b]thiazole-3-carboxylic acid ethyl ester | 1.47 mmol, 466 mg | C(C)OC(=O)C=1N2C(SC1)=NC(=C2)C2=C(C=CC=C2)[N+](=O)[O-] | C14H11N3O4S
reactant | NaOH | 234 mg, 4 eq | [OH-].[Na+]
reactant | THF Water | C1CCOC1.O
product | [6-(2-Nitro-phenyl)-imidazo[2,1-b]thiazol-3-yl]-acetic acid | 442 mg, 99% yield | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2SC=C(N2C1)CC(=O)O | C13H9N3O4S
